US04031226
A mixture of 8 parts of 1-(4-fluor-2-methoxybenzoyl)-aziridine, 3.8 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 54 parts of benzene and 8 parts of methanol is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and 90 parts of benzene are added. The whole is washed with water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from 2-propanone. The product is filtered off and dried, yielding 4 parts of N{2-[4-(2,3-dihydro-2-oxo-lH-benzimidazol-1-yl)-1-piperidinyl] ethyl}-4-fluoro-2-methoxybenzamide; mp. 197.3° C.

reactant | 1-(4-fluor-2-methoxybenzoyl)-aziridine | FC1=CC(=C(C(=O)N2CC2)C=C1)OC | C10H10FNO2
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N{2-[4-(2,3-dihydro-2-oxo-lH-benzimidazol-1-yl)-1-piperidinyl] ethyl}-4-fluoro-2-methoxybenzamide | O=C1NC2=C(N1C1CCN(CC1)CCNC(C1=C(C=C(C=C1)F)OC)=O)C=CC=C2 | C22H25FN4O3
